US08076491B2
methyl 2-(3-(2-methoxyethoxy)benzylamino)acetate
Prepared as in example 10-10a from glycine methyl ester and 3-(2-methoxyethoxy)benzaldehyde. Yield 55%. MS M+H calculated 254.1; found 254.1

reactant | glycine methyl ester | COC(CN)=O | C3H7NO2
reactant | 3-(2-methoxyethoxy)benzaldehyde | COCCOC=1C=C(C=O)C=CC1 | C10H12O3
product | methyl 2-(3-(2-methoxyethoxy)benzylamino)acetate | Yield 55% | COCCOC=1C=C(CNCC(=O)OC)C=CC1 | C13H19NO4
